US04294960
50% Formic acid (41 ml.) was added to a solution of ethyl 2-(2-tritylaminothiazol-4-yl)-2-propargyloxyiminoacetate (syn isomer, 8.2 g.) and tetrahydrofuran (41 ml.), and stirred at 60° C. for an hour. The resultant solution was concentrated to a half of initial volume under reduced pressure, and the precipitates were collected by filtration and washed with diisopropyl ether. The filtrate and washing solution were combined together and concentrated in vacuo. The residue was added to ethyl acetate (200 ml.) under stirring. The insoluble substance was collected by filtration, and washed with diethyl ether to give ethyl 2-(2-aminothiazol-4-yl)-2-propargyloxyiminoacetate (syn isomer, 0.3 g.). The filtrate and ethyl acetate washing solution were combined together, washed with a saturated aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride twice in turn, and dried over magnesium sulfate. The solution was treated with activated charcoal and concentrated in vacuo. The residue was dried in vacuo after adding benzene. The residue was subjected to column chromatography on silica gel with benzene and ethyl acetate in turn. The eluate was concentrated in vacuo, and the residue was triturated with diisopropyl ether. The precipitates were collected by filtration, washed with diisopropyl ether to give the same compound as mentioned above (syn isomer, 2.658 g.). The I.R. spectrum and N.M.R. spectrum are the same as those of the compound obtained in Example I-(3).

reactant | Formic acid | 41 ml | C(=O)O | CH2O2
reactant | ethyl 2-(2-tritylaminothiazol-4-yl)-2-propargyloxyiminoacetate | 8.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)OCC)=NOCC#C | C29H25N3O3S
solvent | tetrahydrofuran | 41 ml | O1CCCC1 | C4H8O
product | ethyl 2-(2-aminothiazol-4-yl)-2-propargyloxyiminoacetate | 0.3 g | NC=1SC=C(N1)C(C(=O)OCC)=NOCC#C | C10H11N3O3S
